US07022725B2
To a solution of 3-[5-(4-methylthiophenyl)-4-isoxazolyl]propan-1-ol (500 mg) in tetrahydrofuran (30 ml) was gradually added m-chloroperbenzoic acid (870 mg) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into iced water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give crystals (480 mg, yield 85%) of 3-[5-(4-methylsulfonylphenyl)-4-isoxazolyl]propan-1-ol from a fraction eluted with acetone-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-isopropyl ether to give a colorless needle. melting point: 125–126° C.

reactant | 3-[5-(4-methylthiophenyl)-4-isoxazolyl]propan-1-ol | 500 mg | CSC1=CC=C(C=C1)C1=C(C=NO1)CCCO | C13H15NO2S
reactant | m-chloroperbenzoic acid | 870 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[5-(4-methylsulfonylphenyl)-4-isoxazolyl]propan-1-ol | 480 mg, yield 85% | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C=NO1)CCCO | C13H15NO4S
